US05137879
5-Methyl-N-[2-(4-chlorophenyl)ethyl]furo[2,3-d]pyrimidin-4-amine
A mixture of 4.0 g of 2-amino-3-cyano-4-methylfuran, 3 cc of triethylorthoformate, and 0.05 cc of acetic anhydride was heated to 135° C. for three hours. Then 5 g of 2-(4-chlorophenyl)ethylamine, 5 cc of glacial acetic acid, and 3.2 g of sodium acetate were added to the reaction mixture. The temperature of the mixture was maintained at 135° C. for three additional hours, after which the mixture was cooled, treated with water and extracted with dichloromethane. The organic phase was then concentrated and washed with water. The solids were extracted from the organic phase with large volumes of ether, which were combined and concentrated to provide 1.07 g of product. M.P. 140° C.

reactant | 2-amino-3-cyano-4-methylfuran | 4.0 g | NC=1OC=C(C1C#N)C | C6H6N2O
reactant | triethylorthoformate | 3 cc | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.05 cc | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4-chlorophenyl)ethylamine | 5 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
reactant | sodium acetate | 3.2 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 5 cc | C(C)(=O)O | C2H4O2
product | 5-Methyl-N-[2-(4-chlorophenyl)ethyl]furo[2,3-d]pyrimidin-4-amine | 1.07 g | CC1=COC=2N=CN=C(C21)NCCC2=CC=C(C=C2)Cl | C15H14ClN3O
